US07160888B2
A first intermediate compound 2,2-Dimethyl-2,3-dihydro-benzofuran-7-ylamine, was produced as follows: To a mixture of 2,2-dimethyl-2,3-dihydro-benzofuran-7-carboxylic acid (Maybridge, 6.15 g, 32.0 mmol) in dry tert-butanol (100 mL) was added Et3N (8.9 mL, 64.0 mmol) and the mixture became homogenous. DPPA (8.3 mL, 38.4 mmol) was added and the reaction was refluxed overnight. The reaction was concentrated and diluted with EtOAc. The organics were washed with water (2×) and brine, dried over Na2SO4 and concentrated. Purification by SiO2 chromatography (AnaLogix RS-120, 2–25% EtOAc/Hex) gave (2,2-dimethyl-2,3-dihydro-benzofuran-7-yl)-carbamic acid tert-butyl ester as a clear oil (6.33 g, 24.0 mmol, 75%).

reactant | 2,2-dimethyl-2,3-dihydro-benzofuran-7-carboxylic acid | 32.0 mmol, 6.15 g | CC1(OC2=C(C1)C=CC=C2C(=O)O)C | C11H12O3
reactant | Et3N | 64.0 mmol, 8.9 mL | CCN(CC)CC | C6H15N
reactant | DPPA | 38.4 mmol, 8.3 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | (2,2-dimethyl-2,3-dihydro-benzofuran-7-yl)-carbamic acid tert-butyl ester | 24.0 mmol, 6.33 g, 75% | C(C)(C)(C)OC(NC1=CC=CC=2CC(OC21)(C)C)=O | C15H21NO3
